US08754229B2
Preparation of (2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)trimethylsilane
A mixture of (4-bromo-2,5-difluorophenyl)trimethylsilane (10 g, 37.7 mmol), potassium acetate (11.10 g, 113 mmol), 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium(II) dichloromethane complex (2.76 g, 3.77 mmol), and bis(pinacolato)diboron (10.53 g, 41.5 mmol) in dimethyl sulfoxide (DMSO; 126 mL) was stirred at 80° C. for 12 h. The mixture was poured into H2O (600 mL), and the crude product was extracted with Et2O (3×). The combined organic layers were dried over MgSO4, filtered and concentrated to give a black oil. The residue was filtered through a short pad of silica gel and washed with Et2O. After concentration, the title compound was obtained as an orange-brown oil (12.14 g, 31.9 mmol, 85% yield based on an 82% purity), which was used without further purification in the next step: 1H NMR (400 MHz, CDCl3) δ 7.30 (dd, J=7.8, 4.1 Hz, 1H), 7.00 (dd, J=8.4, 3.7 Hz, 1H), 1.35 (s, 12H), 0.30 (d, J=0.9 Hz, 9H); 19F NMR (376 MHz, CDCl3) δ −109.11, −110.92; EIMS m/z 312.

reactant | (4-bromo-2,5-difluorophenyl)trimethylsilane | 37.7 mmol, 10 g | BrC1=CC(=C(C=C1F)[Si](C)(C)C)F | C9H11BrF2Si
reactant | potassium acetate | 113 mmol, 11.10 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 41.5 mmol, 10.53 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | H2O | 600 mL | O | H2O
solvent | dimethyl sulfoxide | 126 mL | CS(=O)C | C2H6OS
product | (2,5-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)trimethylsilane | 85% yield | FC1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)F)[Si](C)(C)C | C15H23BF2O2Si
